US08044069B2
tert-butyl 4-(1-(3-(trifluoromethyl)phenyl)ethyl)piperazine-1-carboxylate
A suspension of 1-(3-(trifluoromethyl)phenyl)ethanone (0.100 g, 0.532 mmol), tert-butyl piperazine-1-carboxylate (0.148 g, 0.797 mmol), acetic acid (0.046 mL, 0.797 mmol) and sodium cyanoborohydride (0.050 g, 0.797 mmol) in ethanol (0.5 mL) was heated under nitrogen at 75° C. After stirring overnight the reaction was concentrated, saturated sodium bicarbonate (0.7 mL) was added, and the product was extracted into ethyl acetate (2×0.7 mL). The combined organic layers were concentrated, dissolved in a minimal amount of dichloromethane, loaded directly onto a SF15-12 silica gel column (Analogix®, Burlington, Wis.), and the title compound was eluted using a gradient of 2% to 20% ethyl acetate/hexanes over 20 minutes (flow=30 mL/minute).

reactant | 1-(3-(trifluoromethyl)phenyl)ethanone | 0.532 mmol, 0.100 g | FC(C=1C=C(C=CC1)C(C)=O)(F)F | C9H7F3O
reactant | tert-butyl piperazine-1-carboxylate | 0.797 mmol, 0.148 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | acetic acid | 0.797 mmol, 0.046 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.797 mmol, 0.050 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | tert-butyl 4-(1-(3-(trifluoromethyl)phenyl)ethyl)piperazine-1-carboxylate | FC(C=1C=C(C=CC1)C(C)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C18H25F3N2O2
